US07098203B2
Step D: (3,3-ethylenedioxy-1-phenylcyclohexyl)methanol
To a solution of methyl 3,3-ethylenedioxy-1-phenylcyclohexanecarbaldehyde (1.43 g, 5.81 mmol) in methanol (25 mL) at 0° C. was added sodium borohydride (221 mg) in portions, and the resulting suspension was stirred at room temperature overnight. The reaction was quenched with saturated sodium bicarbonate and methanol was removed under vacuum. The aqueous layer was extracted with dichloromethane 3 times. The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to give the title compound as clear colorless sticky oil (1.25 g, 87% yield). 1H NMR (400 MHz, CDCl3) δ 1.48–1.81 (7H, m), 1.88 (1H, d, J=16 Hz), 2.06 (1H, d, J=12 Hz), 2.22 (1H, d, J=12 Hz), 3.73–4.06 (5H, m), 7.15–7.25 (2m), 7.31–7.38 (3H, m). HPLC purity (retention time): 85% (1.44 min, method C). MS: 271.40 (M+Na+).

reactant | methyl 3,3-ethylenedioxy-1-phenylcyclohexanecarbaldehyde | 5.81 mmol, 1.43 g | CC1C(CCCC12OCCO2)(C=O)C2=CC=CC=C2 | C16H20O3
reactant | sodium borohydride | 221 mg | [BH4-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | (3,3-ethylenedioxy-1-phenylcyclohexyl)methanol | 1.25 g, 87% yield | C1OC2(CC(CCC2)(C2=CC=CC=C2)CO)OC1 | C15H20O3
